US07414050B2
d) 4-(4-Amino-3-cyclohex-1-enyl-phenyl)-1-methyl-piperidine-2,6-dione
A suspension of 265 mg (0.892 mmol) of 4-(4-amino-3-bromo-phenyl)-1-methyl-piperidine-2,6-dione (as prepared in the previous step) in toluene (15 mL) and dioxane (15 mL) was treated with 379 mg (1.78 mmol) of K3PO4, 146 mg (1.16 mmol) of cyclohex-1-enylboronic acid, and 125 mg (0.357 mmol) of 2-(dicyclohexylphosphino)-biphenyl. The mixture was degassed via sonication, placed under Ar, treated with 20.0 mg (0.00892 mmol) of Pd(OAc)2, and heated to 80° C. for 2.5 h. The mixture was diluted with EtOAc (70 mL) and washed with water (2×50 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo. Silica gel chromatography of the residue on a 50-g Varian MegaBond Elut SPE column with 25-50% EtOAc-hexane afforded 266 mg (100%) of the title compound as a tan solid: Mass spectrum (ESI, m/z): Calcd. for C18H22N2O2, 299.2 (M+H). found 299.1.

reactant | 4-(4-amino-3-bromo-phenyl)-1-methyl-piperidine-2,6-dione | 0.892 mmol, 265 mg | NC1=C(C=C(C=C1)C1CC(N(C(C1)=O)C)=O)Br | C12H13BrN2O2
reactant | K3PO4 | 1.78 mmol, 379 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | cyclohex-1-enylboronic acid | 1.16 mmol, 146 mg | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | 2-(dicyclohexylphosphino)-biphenyl | 0.357 mmol, 125 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.00892 mmol, 20.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-(4-Amino-3-cyclohex-1-enyl-phenyl)-1-methyl-piperidine-2,6-dione | 266 mg, 100% | NC1=C(C=C(C=C1)C1CC(N(C(C1)=O)C)=O)C1=CCCCC1 | C18H22N2O2
